US09428510B2
3.08 g (2 eq) of lithium hydroxide monohydrate is added at room temperature to a solution of 8.7 g (36.7 mmol) of ethyl 2-amino-5-cyano-6-(methylthio)nicotinate in 87 ml of ethanol and 87 ml of water. The reaction mixture is stirred at 60° C. for 2 hours. The ethanol is evaporated and 1 N aqueous soda is added. The aqueous phase is washed with ethyl acetate and then re-acidified by adding 1 N aqueous hydrogen chloride (pH=1). The precipitate formed is filtered, rinsed with water and with diethyl ether and then dried under vacuum to yield 7.67 g (quantitative) of 2-amino-5-cyano-6-(methylthio)nicotinic acid in the form of a brown powder.

reactant | lithium hydroxide monohydrate | 3.08 g, 2 eq | O.[OH-].[Li+]
reactant | ethyl 2-amino-5-cyano-6-(methylthio)nicotinate | 36.7 mmol, 8.7 g | NC1=C(C(=O)OCC)C=C(C(=N1)SC)C#N | C10H11N3O2S
solvent | ethanol | 87 ml | C(C)O | C2H6O
solvent | water | 87 ml | O | H2O
product | 2-amino-5-cyano-6-(methylthio)nicotinic acid | 7.67 g | NC1=C(C(=O)O)C=C(C(=N1)SC)C#N | C8H7N3O2S
